data/oMe_Silver.jsonl
{"reaction_id": "NR-244_1-c2ccccc2_4-COCC","level": "easy","name": "Stork Enamine Synthesis","reactants_smiles": ["C(c2ccccc2)(=C)N1CCCC1","C(COCC)Br"],"products_smiles": ["C(=O)(c2ccccc2)CC(COCC)"],"conditions": "H2O","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c2ccccc2)(=[N+]1CCCC1)CC(COCC)","step_weight": 0,"rationale": "The enamine's electron-rich α-carbon attacks the electrophilic carbon in the alkyl halide via SN2, favored by the good leaving ability of bromide and minimal steric hindrance at the electrophilic site."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c2ccccc2)(N1CCCC1)(CCCOCC)[OH2+]","step_weight": 0,"rationale": "Water, activated by the iminium's strong electrophilicity, adds to the iminium carbon due to resonance stabilization of the positive charge on nitrogen, facilitating nucleophilic attack."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c2ccccc2)([NH+]1CCCC1)(CCCOCC)O","step_weight": 0,"rationale": "Proton transfer from the oxonium to nitrogen relieves positive charge on oxygen, stabilizing the intermediate and preparing for C–N bond cleavage."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c2ccccc2)(=[OH+])CC(COCC)","step_weight": 0,"rationale": "Elimination of the amine occurs as nitrogen's lone pair reforms, expelling it as a leaving group; the driving force is formation of the strong C=O double bond."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(c2ccccc2)CC(COCC)","step_weight": 0,"rationale": "Deprotonation of the protonated carbonyl restores neutrality, favored by the stability of the neutral ketone under aqueous conditions."}],"description": "The enamine acts as a nucleophile toward the alkyl halide via SN2, forming an iminium intermediate. Subsequent aqueous hydrolysis converts the iminium to a carbonyl through nucleophilic addition of water, proton transfers, and elimination, yielding the ketone product."}
{"reaction_id": "NR-107_1-C1CCCCC1_2-C(C)CC_3-C_4-C1CC(C)C(C)C1_5-C(C)C_6-c1ccc(F)cc1C_7-CC=C","level": "medium","name": "Hofmann Elimination","reactants_smiles": ["C(C1CCCCC1)(C(C)CC)C(C)(C1CC(C)C(C)C1)[N+](C(C)C)(c1ccc(F)cc1C)CC=C","[OH-]"],"products_smiles": ["C(=C(C)C1CC(C)C(C)C1)(C1CCCCC1)C(C)CC"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(C)C1CC(C)C(C)C1)(C1CCCCC1)C(C)CC","step_weight": 0,"rationale": "Hydroxide abstracts the least hindered β-hydrogen anti-periplanar to the bulky ammonium group; the excellent leaving ability of the quaternary ammonium drives E2 elimination, yielding the less substituted alkene favored by steric effects."}],"description": "Under strong base and heat, the quaternary ammonium group undergoes Hofmann elimination, favoring the less substituted alkene due to steric hindrance and anti-periplanar geometry requirements. Hydroxide abstracts a β-proton, facilitating elimination of the bulky ammonium leaving group."}
